US06214853B1
N-Benzoyl-N′-[4-(isopropylformylamino)cyclohexyl]methylthiourea:
A mixture of N-[4-(aminomethyl)cyclohexyl]-N-isopropylformamide salt (4.55 mmol, 1 equivalent), benzoyl isothiocyanate (5.46 mmol, 1.2 equivalents) and triethylamine (5.46 mmol, 1.2 equivalents) in THF (50 ml) were stirred at room temperature overnight. The removal of solvent and chromatography afforded the desired product: 39% yield, 362 (ESMS, MH+); 1H NMR (CDCl3) δ 10.87 (broad, 1H), 9.20 (broad, 1H), 8.20 & 8.18 (two s, 1H), 7.83 (d, 2H, J=7.7 Hz), 7.60 (m, 1H), 7.49 (m, 2H), 4.26 (m, 1H), 3.76 & 3.08 (two m, 1H), 3.57 (m, 2H), 1.25 (d, 3H, J=6.8 Hz), 1.19 (d, 3H, J=6.8 Hz), 1.97-1.03(m, 9H).

reactant | N-[4-(aminomethyl)cyclohexyl]-N-isopropylformamide | 4.55 mmol, 1 equivalent | NCC1CCC(CC1)N(C=O)C(C)C | C11H22N2O
reactant | benzoyl isothiocyanate | 5.46 mmol, 1.2 equivalents | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | triethylamine | 5.46 mmol, 1.2 equivalents | C(C)N(CC)CC | C6H15N
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | N-Benzoyl-N′-[4-(isopropylformylamino)cyclohexyl]methylthiourea | 39% yield | C(C1=CC=CC=C1)(=O)NC(=S)NCC1CCC(CC1)NC(=O)C(C)C | C19H27N3O2S
